Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
vertigo
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old male with history of hypertension,
hyperlipidemia and CKD who presents with vertigo.

History obtained from he and his wife. He reports he has been in
his usual state of health without recent infections or 
illnesses.
He woke up this morning and as he got up out of bed and was
walking he felt like he was staggering and there was a slight
movement type sensation. He was able to go about his morning,
make breakfast and eat without difficulty. Then around ___ when
he was sitting down he suddenly had severe dizziness (he has
difficulty describing this but thinks things were moving). It 
was
so severe he had nausea and vomiting. He tried to walk but he
couldn't. He thinks the dizziness was constant but definitely
worsens with any movement. He denies vision changes, slurred
speech, weakness, tingling or numbness. No ear pain, pressure or
fullness. He had no headache. Due to all these symptoms he
decided to come to the ED. 

At time of my evaluation he is still dizzy although if he lies
completely still then it is better. He still is without 
headache.

 
Past Medical History:
- borderline HTN
- hypercholesterolemia
- BPH
- h/o basal cell carcinoma 

 
Social History:
___
Family History:
No family history of early MI, malignancy. 
 
Physical Exam:
ADMISSION:
Vitals:  
96.9 73 18 145/69

General: Awake, frail appearing
HEENT: NC/AT, arcus senilis
Pulmonary: breathing comfortably on RA
Cardiac: wwp
Abdomen: soft, NT/ND 
Extremities: No ___ edema
Skin: no rashes or lesions noted

Neurologic:
-Mental Status: Difficult to engage with and often doesn't make
eye contact. Alert and oriented to location, date and relate
history vaguely but really have to ask a lot of questions. He 
can
do DOWB. Language is fluent with intact repetition and
comprehension. He attends to both sides of space. Naming is
intact for high frequency objects.  Alert, oriented x 3. Able to
relate history without difficulty.  

-Cranial Nerves: Eyes without skew in primary gaze. Pupils are
2.5-1.5. He cannot ___ on right gaze or left gaze 
fully.
There is no diplopia with this. There is a right and down 
beating
nystagmus on right gaze and a left and down beating nystagmus on
left gaze (no clear torsional component). There does appears to
be a vertical skew with uncover of left eye. He does not allow
head impulse test. Visual fields are full. Facial sensation is
intact. There is R NLFF but activation appears symmetric. Palate
elevates symmetrically, tongue midline with full excursions. 

-Motor: 
Slightly slower finger taps on the right. 
   Delt Bic Tri WrE FFl FE  IP Quad Ham TA Gastroc 
 L  5    ___   ___   5    5  5     5     
 R  5    ___   ___   5    5  5     5     

-Sensory: No deficits to light touch, pinprick,  proprioception
throughout. No extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   1
 R  2  2    2    2   1
 Plantar response was flexor bilaterally.

-Coordination: Marked dysmetria on left FnF. 

-Gait: He stands with wide based gait and immediately falls back
onto bed and starts vomiting. 

DISCHARGE:
General: Awake, frail appearing
HEENT: NC/AT, arcus senilis
Pulmonary: breathing comfortably on RA
Cardiac: warm & well perfused
Abdomen: soft, NND 
Extremities: No ___ edema
Skin: no rashes or lesions noted

Neurologic:
-Mental Status: Difficult to engage with and often doesn't make
eye contact. Alert and oriented to location, date and relate
history vaguely but really have to ask a lot of questions. He 
can
do DOWB. Language is fluent with intact repetition and
comprehension. He attends to both sides of space. Naming is
intact for high frequency objects.  Alert, oriented x 3. Able to
relate history without difficulty.  

-Cranial Nerves: Eyes without skew in primary gaze. Pupils are
2.5-1.5. He cannot ___ on right gaze or left gaze 
fully.
There is no diplopia with this. There is a right and down 
beating
nystagmus on right gaze and a left and down beating nystagmus on
left gaze (no clear torsional component). Facial sensation is
intact. There is R NLFF but activation appears symmetric. Palate
elevates symmetrically, tongue midline. 

-Motor: 
Slightly slower finger taps on the right. 
   Delt Bic Tri WrE FFl FE  IP Quad Ham TA Gastroc 
 L  5    ___   ___   5    5  5     5     
 R  5    ___   ___   5    5  5     5     

-Sensory: No deficits to light touch throughout.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   1
 R  2  2    2    2   1
 Plantar response was flexor bilaterally.

-Coordination: Improving dysmetria on left FnF. 

-Gait: He stands with wide based gait. 
 
Pertinent Results:
___ 11:24AM BLOOD WBC-7.3 RBC-4.57* Hgb-13.8 Hct-42.9 
MCV-94 MCH-30.2 MCHC-32.2 RDW-13.3 RDWSD-45.3 Plt ___
___ 11:24AM BLOOD Neuts-60.1 ___ Monos-6.6 Eos-0.1* 
Baso-0.4 Im ___ AbsNeut-4.37 AbsLymp-2.30 AbsMono-0.48 
AbsEos-0.01* AbsBaso-0.03
___ 11:24AM BLOOD ___ PTT-25.4 ___
___ 11:24AM BLOOD Glucose-176* UreaN-28* Creat-1.5* Na-137 
K-3.8 Cl-101 HCO3-23 AnGap-13
___ 11:24AM BLOOD ALT-50* AST-34 AlkPhos-64 TotBili-0.3
___ 11:24AM BLOOD Lipase-26
___ 06:35AM BLOOD Calcium-9.8 Phos-2.8 Mg-2.0
___ 11:24AM BLOOD Albumin-4.2 Cholest-243*
___ 12:00AM BLOOD %HbA1c-6.1* eAG-128*
___ 11:24AM BLOOD Triglyc-98 HDL-67 CHOL/HD-3.6 
LDLcalc-156*
___ 11:24AM BLOOD TSH-2.0
___ 11:24AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 02:41PM URINE Color-Straw Appear-Clear Sp ___
___ 02:41PM URINE Blood-SM* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 02:41PM URINE RBC-11* WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 03:39AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

___ 2:41 pm URINE     **FINAL REPORT ___
   URINE CULTURE (Final ___:    < 10,000 CFU/mL.

___ CTA head/neck
IMPRESSION: 
1. Limited study as described. 
2. Within limits of the study, there is no definite evidence of 
acute 
intracranial hemorrhage or acute large territorial infarct.  
Please note MRI of the brain is more sensitive for the detection 
of acute infarct. 
3. Grossly patent circle of ___ without definite evidence of 
stenosis, occlusion, or aneurysm. 
4. Grossly patent bilateral cervical carotid and vertebral 
arteries without definite evidence of stenosis, occlusion, or 
dissection. 
5. Scattered subcentimeter nonspecific lymph nodes as described. 

6. Additional findings as described. 

___ MR head w/o contrast
IMPRESSION:  
Acute to subacute left cerebellar ischemic stroke as described 
above. 

___ TTE
IMPRESSION: Normal biventricular cavity sizes and 
regional/global biventricular systolic function. Normal 
estimated pulmonary artery systolic pressure. No structural 
cardiac source of embolism (e.g.patent foramen ovale/atrial 
septal defect, intracardiac thrombus, or vegetation) seen.

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with HTN, CKD, and BPH who is 
admitted to the Neurology stroke service with instability and 
vertigo secondary to an acute ischemic/hemorrhagic stroke in the 
left cerebellum. His stroke was most likely secondary to 
cardioembolic event given lack of significant atherosclerotic dz 
on CTA head/neck. We did not consider this a failure of ASA as 
the patient had stopped taking his aspirin for primary 
prevention 3 wks ago per PCP ___. He was started on 
aspirin and clopidogrel on admission, which will be continued at 
discharge. His deficits improved greatly prior to discharge and 
the only notable deficits was instability and left-sided ataxia. 
He will be discharged with a Zio patch on discharge to monitor 
for A fib. He was evaluated by ___ and will continue rehab at 
a rehab center upon discharge. 

His stroke risk factors include the following:
1) DM: A1c 6.1%
2) No significant intracranial atherosclerosis 
3) Hyperlipidemia: not on statin, not controlled with LDL 156
4) Overweight
5) No concern noted for or known diagnosis of sleep apnea 
An echocardiogram did not show a PFO on bubble study.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done - () Not confirmed () No
2. DVT Prophylaxis administered? (X) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(X) Yes - () No
4. LDL documented? (X) Yes (LDL = 156) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (X) Yes - () No [if 
LDL if LDL >70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL]
6. Smoking cessation counseling given? () Yes - (X) No [reason 
(X) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(X) Yes - () No
9. Discharged on statin therapy? (X) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (X) Yes [Type: (X) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (X) N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clotrimazole Cream 1 Appl TP BID 
2. Finasteride 5 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. ammonium lactate 12 % topical DAILY dry skin on leg/feet 
5. urea 40 % topical DAILY toe 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY  
4.  ammonium lactate 12 % topical DAILY dry skin on leg/feet  
5.  Clotrimazole Cream 1 Appl TP BID  
6.  Finasteride 5 mg PO DAILY  
7.  Hydrochlorothiazide 25 mg PO DAILY  
8.  urea 40 % topical DAILY toe  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
acute left lateral cerebellar ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of vertigo and instability 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
HIGH CHOLESTEROL
PRE-DIABETES

We are changing your medications as follows:
START aspirin, clopidogrel, and atorvastatin

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___